US07115611B2
A cooled (0° C.) solution of 0.081 g (0.25 mmol) of [4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol in 2.5 ml dichloromethane was treated with 0.04 ml (0.50 mmol) thionylchloride and stirred for 14 h at RT. The reaction was evaporated, dissolved in ether and twice in heptane and evaporated to give 0.077 g of pure 5-chloromethyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine.

reactant | [4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 0.25 mmol, 0.081 g | FC(C1=NC(=NC=C1CO)C1=CC=C(C=C1)C(F)(F)F)(F)F | C13H8F6N2O
reactant | thionylchloride | 0.50 mmol, 0.04 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 5-chloromethyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 0.077 g | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C13H7ClF6N2
